US06462075B1
1,3-Diphenyl-1-propanone.
(42) Chalcone (2.00 g, 9.60 mmol) dissolved in 24 ml of ethyl acetate was hydrogenated with 100 mg of 10% Pd/C at 55 psi for 2 hours at room temperature. The catalyst was filtered through celite, and the solvent evaporated to give the crude product, which was chromatographed on silica gel using 4:1 hexanes:ethyl acetate yielding 1.20 g (60.0%) of a white, flaky powder. 1H NMR (250 MHz) δ 8.00-7.97 (m, 2H), 7.61-7.21 (m, 8H), 3.36-3.30 (t, 2H), 3.13-3.07 (t, 2H); 13C NMR (62.7 MHz) 199.4, 141.5, 137.0, 133.3, 128.8, 128.6, 128.2, 126.3, 40.6 ppm.

reactant | Chalcone | 9.60 mmol, 2.00 g | C1(=CC=CC=C1)C=CC(=O)C1=CC=CC=C1 | C15H12O
solvent | ethyl acetate | 24 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 1,3-Diphenyl-1-propanone | C1(=CC=CC=C1)C(CCC1=CC=CC=C1)=O | C15H14O
